US05589476
12.1.4. (S)-2-Chloro-5-methyl-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1,4]benzodiazepine
4.55 g (0.022 mol) of (S)-5-methyl-4,5,6,7-tetrahydroimidazo[4,5,1-jk][1,4]benzodiazepin-2(1H)-one in 90 ml of phosphoryl chloride are heated at 130° C. in an oil bath for 4 hours. The solvent is evaporated under vacuum and the oily residue taken up while hot in water. The mixture is left stirring for 15 minutes, is cooled and a concentrated aqueous ammonia solution is added. Extraction is carried out with dichloromethane, washing is carried out with water, drying is carried out over sodium sulphate and the solvent is evaporated to dryness. There are obtained 4.3 g of product in the form of an oil which is used as is in the following stage.

reactant | (S)-5-methyl-4,5,6,7-tetrahydroimidazo[4,5,1-jk][1,4]benzodiazepin-2(1H)-one | 0.022 mol, 4.55 g | C[C@H]1CN2C3=C(CN1)C=CC=C3NC2=O | C11H13N3O
reactant | phosphoryl chloride | 90 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (S)-2-Chloro-5-methyl-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1,4]benzodiazepine | 4.3 g | ClC1=NC2=CC=CC=3CN[C@H](CN1C32)C | C11H12ClN3
